US05281603
Cis-3-(2-butyl-1,4-dihydro-4-oxo-6-quinazolinyl) 3a,6a-dihydro-5-methyl-1-(triphenylmethyl)-pyrrolo[3, 4-c}pyrazole-4,6(1H,5H)-dione
A mixture of 1.0 g of 2-Butyl-6-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone and 1.0 g of N-methylmaleimide is heated at reflux in xylene for 6 hours. The reaction mixture is cooled to room temperature and evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 50% ethyl acetate-hexanes to give 1.0 g of the desired product as a yellow solid, m.p. 182° C.

reactant | 2-Butyl-6-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-4(1H)-quinazolinone | 1.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H28N6O
reactant | N-methylmaleimide | 1.0 g | CN1C(C=CC1=O)=O | C5H5NO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Cis-3-(2-butyl-1,4-dihydro-4-oxo-6-quinazolinyl) 3a,6a-dihydro-5-methyl-1-(triphenylmethyl)-pyrrolo[3, 4-c}pyrazole-4,6(1H,5H)-dione | 1.0 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=1[C@H]2[C@@H](N(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(N(C2=O)C)=O | C37H33N5O3
